US06380218B1
2-(3-Amino-phenoxy)-N-(2-chloro-benzyl)-nicotinamide
To a solution of 2-(3-Nitro-phenoxy)-N-(2-chloro-benzyl)-nicotinamide (0.530 g 1.38 mmole) in methanol (15 ml) and tetrahydrofuran (20 ml) was added 10% PtO2 (0.0.50 g). This was shaken under 35 psi hydrogen for 1 hour 40 minutes. The catalyst was removed by filtration, and the solution was concentrated to give an oil that was purified by chromatography on silica gel eluting with 2.5% methanol/methylene chloride. Recrystalization from ethyl acetate/hexane gave crystals. (0.327 g). M.P. 101-103° C.; Anal. calcd. for C19H16N3O2Cl: C, 64.5; H, 4.56; N, 11.88. Found: C, 64.15; H,4.07; N, 11.80.

reactant | 2-(3-Nitro-phenoxy)-N-(2-chloro-benzyl)-nicotinamide | 1.38 mmole, 0.530 g | [N+](=O)([O-])C=1C=C(OC2=C(C(=O)NCC3=C(C=CC=C3)Cl)C=CC=N2)C=CC1 | C19H14ClN3O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | PtO2 | O=[Pt]=O
product | 2-(3-Amino-phenoxy)-N-(2-chloro-benzyl)-nicotinamide | NC=1C=C(OC2=C(C(=O)NCC3=C(C=CC=C3)Cl)C=CC=N2)C=CC1 | C19H16ClN3O2
